US07030141B2
Step 3a: (5-Chloro-pyridin-2-yl)-carbamic acid 4-nitro-phenyl ester
2-Amino-5-chloropyridine (1.05 g, 8.2 mmol) was suspended in 15 mL dry DCM under Ar, added dry pyridine (0.66 mL, 8.2 mmol), cooled to 0° C. and added 4-nitrophenol chloroformate. A white precipitate forms rapidly. Stirred at ambient temperature for 1 hour, filtered off solid, washed with water and then DCM. A white solid recovered which is consistent with title compound. (2.1 g, 88%) 1H-NMR (D6-DMSO)

reactant | 2-Amino-5-chloropyridine | 8.2 mmol, 1.05 g | NC1=NC=C(C=C1)Cl | C5H5ClN2
reactant | pyridine | 8.2 mmol, 0.66 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenol chloroformate | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | (5-Chloro-pyridin-2-yl)-carbamic acid 4-nitro-phenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(NC1=NC=C(C=C1)Cl)=O | C12H8ClN3O4
